US04099002
To a solution of 1.07 g. of 3-(β-diethylaminoethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone in 20 ml. of dimethylformamide was added 0.13 g. of 64% sodium hydride, and the resulting mixture was heated with stirring at 60° C (bath temperature) for 1 hour. Thereafter, 0.94 g. of ethyl iodide was added thereto at room temperature, and the mixture was stirred at 100° C (bath temperature) for 4 hours. After cooling, the reaction mixture was poured into 100 ml. of water, extracted with chloroform, washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed under reduced pressure to obtain colorless oily 1-ethyl-3-(β-diethylaminoethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone hydroiodide. This compound was crystallized from ethanol-petroleum benzine to give colorless fine crystals having a melting point of 198°-199° C (decomp.).

reactant | 3-(β-diethylaminoethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | C(C)N(CCN1C(NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)CC | C20H24ClN3O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-ethyl-3-(β-diethylaminoethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone hydroiodide | I.C(C)N1C(N(C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)CCN(CC)CC)=O | InChI=1S/C22H28ClN3O.HI/c1-4-24(5-2)14-15-26-21(17-10-8-7-9-11-17)19-16-18(23)12-13-20(19)25(6-3)22(26)27;/h7-13,16,21H,4-6,14-15H2,1-3H3;1H
